US07091232B2
Thionyl chloride (10.0 mL, 1.5 eq) and 3-chloro-2-methyl-benzoic acid (commercially available from Aldrich) (15.6 g, 91.4 mmol) in benzene was refluxed until no more gas evolution was observed. After cooling to rt the mixture was concentrated. The concentrate was diluted with dichloroethane and added to a solution of AlCl3 (12.2 g, 1.0 eq) in dichloroethane at 10–20° C. Ethylene was bubbled through the mixture for 4 h. and the mixture was stirred overnight. The mixture was quenched with 4 N HCl. The resulting layers were separated and the aqueous layer was extracted with Et2O (3×250 mL). The combined organic extract was washed with H2O (3×150 mL), saturated NaHCO3 (3×150 mL), brine (1×150 mL), dried over MgSO4 and concentrated. Concentrated sulfuric acid was added and the mixture was stirred at 85° C. for 1 h. After cooling to rt, the reaction mixture was quenched with ice-water. The mixture was extracted with Et2O (3×250 mL) and the combined organic extracts were washed with H2O (3×200 mL), saturated NaHCO3 (3×200 mL), brine (1×100 mL), dried over MgSO4 and concentrated. Pure 6-chloro-7-methyl-1-indanone (11.9 g, 72%) was obtained after column chromatography using 20% EtOAc:hexane as eluant. Use of 6-chloro-7-methyl-1-indanone in Method NINETEEN produced 4-(5-chloro-4-methyl-indan-2-yl)-1,3-dihydro-imidazole-2-thione (Compound 152).

reactant | Thionyl chloride | 10.0 mL, 1.5 eq | S(=O)(Cl)Cl | Cl2OS
reactant | 3-chloro-2-methyl-benzoic acid | ClC=1C(=C(C(=O)O)C=CC1)C | C8H7ClO2
reactant | AlCl3 | 12.2 g, 1.0 eq | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 6-chloro-7-methyl-1-indanone | 11.9 g, 72% | ClC1=CC=C2CCC(C2=C1C)=O | C10H9ClO
